US05541324
6-Chloro-1,2-dihydroquinoxalin-2-one (VI)
Following the procedure of J. Med. Chem., 24, 93 (1981), glyoxylic acid (29.4 ml) is added to a solution of 4-chloro-1,2-phenylenediamine (38.0 g) and methanol (1.87 L) at 15°. The solution is stirred for 24 hr at 20°-25° and is concentrated. The residue is washed with water (4×608 ml), isopropanol (145 ml), and dried under reduced pressure to give a solid. Two successive recrystallizations from hot (ca 90°) 2-methoxyethanol (1.49 l and 0.927 l) gives the title compound, NMR (DMSO-d6) 12.55, 8.22, 7.86, 7.62 and 7.32 δ.

reactant | glyoxylic acid | 29.4 ml | C(C=O)(=O)O | C2H2O3
reactant | 4-chloro-1,2-phenylenediamine | 38.0 g | ClC1=CC(=C(C=C1)N)N | C6H7ClN2
solvent | methanol | 1.87 L | CO | CH4O
product | 6-Chloro-1,2-dihydroquinoxalin-2-one | ClC=1C=C2N=CC(NC2=CC1)=O | C8H5ClN2O
